US05006534
1-(3-Methylphenyl)pentyl acetate
65.4 g of 3-(1-hydroxypentyl)toluene are dissolved in 500 ml of absolute methylene chloride at 0° C., and 104 ml of acetic anhydride, 89 ml of pyridine and 1 g of dimethylaminopyridine are added in succession. The reaction solution is stirred at 0° C. for 1 hour and at 25° C. for 2 hours and then poured onto 1 l of ice-water. After the organic phase has been separated off, it is extracted 3 times with 200 ml of methylene chloride each time. The organic phases are washed 3 times with 200 ml of 2N HCl each time, 3 times with 200 ml of saturated NaHCO3 each time and twice with 200 ml of water each time, dried over magnesium sulphate and concentrated in vacuo. The residue is distilled at 95° C./0.1 mm (bulb tube).

reactant | 3-(1-hydroxypentyl)toluene | 65.4 g | OC(CCCC)C=1C=C(C=CC1)C | C12H18O
reactant | acetic anhydride | 104 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 89 ml | N1=CC=CC=C1 | C5H5N
reactant | dimethylaminopyridine | 1 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-Methylphenyl)pentyl acetate | C(C)(=O)OC(CCCC)C1=CC(=CC=C1)C | C14H20O2
